US07276624B2
CH2═C(CF3)CF2OSO2F (10 g, 0.04 mole) is added gradually to a mixture of dry sodium iodide (NaI) (7 g, 0.047 mole) and dry diglyme (20 ml) at 10° C. with stirring. The reaction mixture is kept overnight and then poured into water. The organic layer is separated, washed with aqueous sodium bicarbonate solution and then with water and then dried over MgSO4. Distillation gives a mixture (6 g, 54%) of 2-trifluoromethyl−3,3,-difluoro−3-iodopropene (CH2═C(CF3)CF2I) (10%) and 1,1-difluoro−2-trifluoromethyl−3-iodopropene (CF2═C(CF3)CH2I) (90%), as shown by GC-MS and 19F NMR. B.pt. 98–99° C. The difluoromethylene isomer CF2═C(CF3)CH2I predominates in this example. The experience with chloride as nucleophile (Example 17), indicates that reaction conditions, time in the case of Example 17, can be varied to control the ratio of methylene to difluoromethylene isomer. Simple experimentation should identify conditions at which iodide as nucleophile will yield higher amounts of methylene monomer.

reactant | CH2═C(CF3)CF2OSO2F | 0.04 mole, 10 g | C=C(C(F)(F)F)C(F)(F)OS(=O)(=O)F | C4H2F6O3S
reactant | sodium iodide | 0.047 mole, 7 g | [I-].[Na+]
reactant | diglyme | 20 ml | COCCOCCOC | C6H14O3
solvent | water | O | H2O
product | 2-trifluoromethyl−3,3,-difluoro−3-iodopropene | 6 g | FC(C(=C)C(I)(F)F)(F)F | C4H2F5I
